US05747500
1-(4-acetoxy-2-butenyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione;
1-(4-hydroxy-2-butenyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione; 1-(2-butynyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione; 1-(3-phenyl-2-propynyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione;

reactant | 1-(4-hydroxy-2-butenyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | OCC=CCN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C20H24N2O4
reactant | 1-(2-butynyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C#CC)N1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C20H22N2O3
reactant | 1-(3-phenyl-2-propynyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C1(=CC=CC=C1)C#CCN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C25H24N2O3
product | 1-(4-acetoxy-2-butenyl)-5-isopropyl-6-(3,5-dimethylbenzoyl)-2,4-pyrimidinedione | C(C)(=O)OCC=CCN1C(NC(C(=C1C(C1=CC(=CC(=C1)C)C)=O)C(C)C)=O)=O | C22H26N2O5
